US06756378B2
To a stirred solution of methyl 4-[2-(N-benzyloxycarbonyl-N-methylamino)ethylamino]benzoate (1.26 g, 3.68 mmol) in MeOH (20 mL) was added 5 wt. Pd—C (700 mg), and the mixture was hydrogenated (3 atm) for 4 hr at room temp. The mixture was filtered, and the filtrate was evaporated under a reduced pressure to give 600 mg (78%) methyl 4-[2-(N-methylamino)ethylamino]benzoate as a colorless oil. 1H-NMR (CDCl3, 400 MHz) δ2.46 (s, 3H), 2.88 (t, 2H, J=5.5 Hz), 3.27 br s, 2H), 3.85 (s, 3H), 6.57 (d, 2H, J=8.8 Hz), 7.85 (d, 2H, J=8.8 Hz); MS (FAB) m/z 209 (M++1).

reactant | methyl 4-[2-(N-benzyloxycarbonyl-N-methylamino)ethylamino]benzoate | 3.68 mmol, 1.26 g | C(C1=CC=CC=C1)OC(=O)N(C)CCNC1=CC=C(C(=O)OC)C=C1 | C19H22N2O4
solvent | MeOH | 20 mL | CO | CH4O
catalyst | Pd—C | 700 mg | [Pd] | Pd
product | methyl 4-[2-(N-methylamino)ethylamino]benzoate | 600 mg, 78% | CNCCNC1=CC=C(C(=O)OC)C=C1 | C11H16N2O2
